US06951943B2
To a stirred solution of 4-nitro-(L)-phenylalanine ethyl ester hydrochloride salt (23.0 g) (CAS No. 58816-66-3) in dichloromethane (230 mL) and water (230 mL), was added slowly 46-48% sodium hydroxide solution (7.7 g, 1.1 mol eqs). The layers were separated and the aqueous phase extracted with dichloromethane (100 mL). The combined dichloromethane layers were washed with water (100 mL) and saturated brine (100 mL). The organic phase was dried (MgSO4) prior to evaporation in vacuo to give 4-nitro-(L)-phenylalanine ethyl ester in quantitative yield. The free nitro-ester was dissolved in fresh dichloromethane (120 mL) and spiro[3,5]nonane-1,3-dione (CAS No 455264-97-8) (12.9 g) [see Wasserman, H. H. et al, J. Org. Chem., 38, 1451-1455 (1973)] was added portion-wise with stirring. Conversion to product was complete after 16 h (HPLC). The reaction mixture was diluted with dichloromethane (120 mL), washed with 11% sodium bicarbonate solution (100 mL), saturated brine (100 mL) and then dried (MgSO4). The title compound was isolated in quantitative yield after removal of solvent in vacuo (32.4 g, viscous oil that crystallised slowly; m.p. 120° C.). δH (DMSO d6) 8.39 (1H, d), 8.17 (2h, d), 7.56 (2H, d), 4.33 (1H, s), 4.31 (1H, m), 4.14 (2H, q), 3.29 (1H, dd), 3.15 (1H, dd), 1.43-1.70 (8H, m), 1.30 (1H, m), 1.15 (3H, t+1H, m). ESI+ (m/z+1) 373.3

reactant | 4-nitro-(L)-phenylalanine ethyl ester hydrochloride salt | 23.0 g | Cl.C(C)OC([C@@H](N)CC1=CC=C(C=C1)[N+](=O)[O-])=O
reactant | sodium hydroxide | 1.1 mol, 7.7 g | [OH-].[Na+]
solvent | dichloromethane | 230 mL | ClCCl | CH2Cl2
solvent | water | 230 mL | O | H2O
product | 4-nitro-(L)-phenylalanine ethyl ester | quantitative yield | C(C)OC([C@@H](N)CC1=CC=C(C=C1)[N+](=O)[O-])=O | C11H14N2O4
